### PR TITLE
feat: Linear programming in the standard form

### PR DESCRIPTION
**Pull request by madvorak**
---

Zulip discussion:
https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237386.20Linear.20Programming

Four PRs incompatible with each other:
https://github.com/leanprover-community/mathlib4/pull/7386 (list of constraints)
https://github.com/leanprover-community/mathlib4/pull/9693 (matrix form)
https://github.com/leanprover-community/mathlib4/pull/10026 (Antoine Chambert-Loir's def; semirings, linear)
https://github.com/leanprover-community/mathlib4/pull/10159 (Antoine Chambert-Loir's def; rings, affine)

- [x] depends on: #9652

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
Alternative: #7386

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean [hunk 1]
```diff
@@ -70,6 +70,19 @@ theorem dotProduct_eq_zero_iff {v : n → R} : (∀ w, dotProduct v w = 0) ↔ v
...
 end Semiring
 
+section OrderedSemiring
+
+variable [OrderedSemiring R] [Fintype n]
+
+lemma dotProduct_nonneg_of_nonneg {v w : n → R} (hv : 0 ≤ v) (hw : 0 ≤ w) : 0 ≤ dotProduct v w :=
+  Finset.sum_nonneg (fun i _ => mul_nonneg (hv i) (hw i))
+
+lemma dotProduct_le_dotProduct_of_nonneg_right {u v w : n → R} (huv : u ≤ v) (hw : 0 ≤ w) :
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/DotProduct.lean:80]: Add a left version as well? For the sake of completion.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 2]
```diff
@@ -0,0 +1,63 @@
...
+## Main definitions
+
+ * `StandardLP` defines a linear program in the standard form.
+ * `StandardLP.Admits` tells if given vector is an admissible solution to given standard LP.
+
+-/
+
+open Matrix
+
+/-- Linear program in the standard form. -/
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:23]: This should be more descriptive, like a complete mathematical definition.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 3]
```diff
@@ -0,0 +1,63 @@
...
+  /-- Matrix of coefficients -/
+  A : Matrix m n K
+  /-- Right-hand side -/
+  b : m → K
+  /-- Objective function coefficients -/
+  c : n → K
+
+variable {m n K : Type} [Fintype m] [Fintype n] [LinearOrderedField K]
+
+def StandardLP.Admits (P : StandardLP m n K) (x : n → K) : Prop :=
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:34]: Is this some standard term? I haven't seen this before. 
How about `IsSolution`?

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 4]
```diff
@@ -0,0 +1,63 @@
...
+  P.A.mulVec x ≤ P.b ∧ 0 ≤ x
+
+def StandardLP.Admissible (P : StandardLP m n K) : Prop :=
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:37]: Same. I haven't seen term used. Suggestion - `IsFeasible`

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 5]
```diff
@@ -0,0 +1,63 @@
...
+  ∃ x : n → K, P.Admits x
+
+def StandardLP.Reaches (P : StandardLP m n K) (v : K) : Prop :=
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:40]: Again, I haven't seen this usage of `Reaches` but I don't have an alternate suggestions.

File: Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean [hunk 6]
```diff
@@ -0,0 +1,63 @@
...
+  dsimp only [StandardLP.dual] at hyc ⊢
+  have hxyb : P.A.mulVec x ⬝ᵥ y ≤ P.b ⬝ᵥ y
+  · exact dotProduct_le_dotProduct_of_nonneg_right hxb h0y
+  have hcxy : P.c ⬝ᵥ x ≤ P.Aᵀ.mulVec y ⬝ᵥ x
+  · rw [← neg_le_neg_iff, ← neg_dotProduct, ← neg_dotProduct, ← neg_mulVec]
+    exact dotProduct_le_dotProduct_of_nonneg_right hyc h0x
+  rw [dotProduct_comm (P.Aᵀ.mulVec y), dotProduct_mulVec, vecMul_transpose] at hcxy
+  exact hcxy.trans hxyb
+
+theorem StandardLP.strongDuality {P : StandardLP m n K}
```
Comment (apurvanakade) [inline Mathlib/LinearAlgebra/Matrix/LinearProgramming.lean:60]: This is not an easy proof and should be done in several separate PRs.

File: Mathlib/LinearAlgebra/Matrix/DotProduct.lean (hunk 1 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/DotProduct.lean:80]: Added in the dedicated PR.

**Comment by madvorak** [comment]
Another alternative:
https://github.com/leanprover-community/mathlib4/pull/10026
